US05929085
To concentrated sulfuric acid (200 ml), cooled in an ice bath, was added portionwise 1,2,3,4-tetrahydro-3-isoquinolinecarboxylic acid hydrochloride (20.4 g, 95.5 mmol). The mixture was stirred, with continued cooling, until the evolution of hydrogen chloride gas ceased. Then, potassium nitrate (9.8 g, 96.9 mmol) was added, in portions, whilst maintaining the temperature under 3° C. The mixture was stirred overnight, allowing it to come to room temperature, and then poured onto ice. Sodium acetate trihydrate (1.02 kg), dissolved in water, was then added to the resulting solution. Sufficient water was added to solubilize the salts; the final reaction volume was 5 l. The product was filtered off, washed with water and air dried, yield 17.35 g. NMR indicated this to be a mixture of the 7-nitro isomer (major component) and the 6-nitro isomer (minor component). This mixture was added to methanol (210 ml), the mixture acidified with dry hydrogen chloride, refluxed for 4 h and then allowed to cool with stirring. The product was filtered off, washed with methanol and air dried to yield 7-nitro-1,2,3,4-tetrahydro-3-isoquinolinecarboxylic acid methyl ester hydrochloride (12.9 g), pure by NMR. The hydrochloride salt was dissolved in water and the solution basified with concentrated ammonium hydroxide and stirred for 0.5 h. The solid was filtered off, washed with water and air dried to yield 7-nitro-1,2,3,4-tetrahydro-3-isoquinolinecarboxylic acid methyl ester (9.97 g), m.p. 133-5° C.

reactant | sulfuric acid | 200 ml | S(O)(O)(=O)=O | H2O4S
reactant | 1,2,3,4-tetrahydro-3-isoquinolinecarboxylic acid hydrochloride | 95.5 mmol, 20.4 g | Cl.C1NC(CC2=CC=CC=C12)C(=O)O
reactant | hydrogen chloride | Cl | ClH
reactant | potassium nitrate | 96.9 mmol, 9.8 g | [N+](=O)([O-])[O-].[K+]
reactant | Sodium acetate trihydrate | 1.02 kg | O.O.O.C(C)(=O)[O-].[Na+]
solvent | water | O | H2O
product | 7-nitro-1,2,3,4-tetrahydro-3-isoquinolinecarboxylic acid methyl ester hydrochloride | 12.9 g | Cl.COC(=O)C1NCC2=CC(=CC=C2C1)[N+](=O)[O-] | InChI=1S/C11H12N2O4.ClH/c1-17-11(14)10-5-7-2-3-9(13(15)16)4-8(7)6-12-10;/h2-4,10,12H,5-6H2,1H3;1H
